US08013186B2
DIBAL-H (2 ml) was added to a solution of 2,2-difluoro-2-pyridin-2-ylacetic acid ethyl ester (400 mg, 2 mmol) in dry ether (2.5 ml) at −78° C. After 4 h, methanol (0.5 ml) and water (2 ml) were added. The reaction mixture was warmed to room temperature and the emulsion formed was filtered through celite and washed with ether. The organic layer was separated, washed with brine and dried over MgSO4. The solvent was evaporated to get a thick liquid. To the crude liquid was added DCM (1 ml) and hexane (3 ml) and left overnight in cold. The precipitated solid was filtered and washed with hexane to give 2,2-difluoro-2-pyridin-2-ylacetaldehyde (150 mg) as a white solid. 2,2-Difluoro-2-pyridin-2-ylacetaldehyde was reacted with 3,3-dimethyl-1(S)-(4-methyl-2,6,7-trioxabicyclo[2.2.2]oct-1-yl)butylamine as described in Example 1, Step 8 above to give (2,2-difluoro-2-pyridin-2-ylethylidene)-[3,3-dimethyl-1(S)-(4-methyl-2,6,7-trioxabicyclo[2.2.2]oct-1-yl)butyl]amine (600 mg) as a thick liquid.

reactant | 2,2-Difluoro-2-pyridin-2-ylacetaldehyde | FC(C=O)(C1=NC=CC=C1)F | C7H5F2NO
reactant | 3,3-dimethyl-1(S)-(4-methyl-2,6,7-trioxabicyclo[2.2.2]oct-1-yl)butylamine | CC(C[C@@H](C12OCC(CO1)(CO2)C)N)(C)C | C12H23NO3
product | (2,2-difluoro-2-pyridin-2-ylethylidene)-[3,3-dimethyl-1(S)-(4-methyl-2,6,7-trioxabicyclo[2.2.2]oct-1-yl)butyl]amine | 600 mg | FC(C=N[C@@H](CC(C)(C)C)C12OCC(CO1)(CO2)C)(C2=NC=CC=C2)F | C19H26F2N2O3
